US06344476B1
To a solution of methyl 3-(N-carbo-tert-butoxyamino)-5-tert-butylthiophene-2-carboxylate (10.7 g, 34.1 mmol) in a 2:1:1 mixture of THF, MeOH and H2O (340 mL) was added NaOH (4.09 g, 102.3 mmol, 3.0 equiv). The resulting solution was heated at 60° C. for 18 h, cooled to room temp. and concentrated under reduced pressure. The residue was separated between H2O (500 mL) and EtOAc (250 mL). The aqueous phase was adjusted to pH 2 with a 10% HCl solution, then extracted with EtOAc (2×400 mL). The organic phase was washed with a saturated NaCl solution (250 mL), dried (MgSO4), and concentrated under reduced pressure to afford 3-(N-carbo-tert-butoxyamino)-5-tert-butylthiophene-2-carboxylic acid as an orange solid (6.6 g, 65%). This material was used in the next step without further purification. An analytical sample of the carboxylic acid was further purified: mp 187-8° C., TLC (10% MeOH/CH2Cl2) Rf0.17; 1H NMR (CDCl3) δ1.40 (s, 9H), 1.54 (s, 9H), 7.73 (s, 1H), 9.19 (s, 1H); 13C NMR (CDCl3) δ28.2 (3C), 31.8 (3C), 35.4, 81.3, 104.6, 116.7, 146.7, 151.9, 166.6, 169.3; FAB-LRMS m/z (rel abundance) 300 (M+H, 30%).

reactant | methyl 3-(N-carbo-tert-butoxyamino)-5-tert-butylthiophene-2-carboxylate | 34.1 mmol, 10.7 g | C(=O)(OC(C)(C)C)NC1=C(SC(=C1)C(C)(C)C)C(=O)OC | C15H23NO4S
reactant | THF | C1CCOC1 | C4H8O
reactant | MeOH | CO | CH4O
reactant | NaOH | 102.3 mmol, 4.09 g, 3.0 equiv | [OH-].[Na+]
solvent | H2O | 340 mL | O | H2O
product | 3-(N-carbo-tert-butoxyamino)-5-tert-butylthiophene-2-carboxylic acid | 6.6 g, 65% | C(=O)(OC(C)(C)C)NC1=C(SC(=C1)C(C)(C)C)C(=O)O | C14H21NO4S
